US05215982
To a suspension of ethyl ethoxymethylenecyanoacetate (21.7 g) in ethanol (65 ml) was added dropwise a solution of hydrazinoacetaldehyde diethyl acetal (19 g) in water (19 ml) under ice-cooling. The mixture was stirred at 80° C. for 1.5 hours and evaporated to remove ethanol. To the residue was 4N sodium hydroxide (64 ml), and the mixture was refluxed for 1 hour. The mixture was adjusted to pH 3.5 with concentrated hydrochloric acid at 10°-20° C., and the resulting precipitate was collected by filtration to give 1-(2,2-diethoxyethyl)-4-carboxy-5-aminopyrazole (8.60 g). IR (Nujol) : 3460, 3360, 1645, 1620, 1545 cm-1

reactant | ethyl ethoxymethylenecyanoacetate | 21.7 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | hydrazinoacetaldehyde diethyl acetal | 19 g | C(C)OC(CNN)OCC | C6H16N2O2
solvent | ethanol | 65 ml | C(C)O | C2H6O
solvent | water | 19 ml | O | H2O
product | 1-(2,2-diethoxyethyl)-4-carboxy-5-aminopyrazole | 8.60 g | C(C)OC(CN1N=CC(=C1N)C(=O)O)OCC | C10H17N3O4
